US07960394B2
8-Chloro-2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-3-methylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-3-chlorobenzoic acid, methylamine and 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 2-amino-3-chlorobenzoic acid | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO2
product | 8-Chloro-2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-3-methylquinazolin-4(3H)-one | ClC=1C=CC=C2C(N(C(=NC12)C1=CC=C(C=C1)OC1CCN(CC1)C1CCC1)C)=O | C24H26ClN3O2
